US06117873
b1) 5-Bromomethyl-7-nitro-2,3-dimethoxyquinoxaline
25 ml of sulfuric acid are cooled to 0° C. and 9.5 g (33.55 mmol) of 5-bromomethyl-2,3-dimethoxyquinoxaline are then added. After a further 10 minutes, 3.39 ml (1 eq.) of isopropyl nitrate are added and the mixture is stirred at 0° C. for 1 hour. The mixture is poured onto ice, and the solid is filtered off and washed with water. The title compound is obtained as a beige solid.

reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-bromomethyl-2,3-dimethoxyquinoxaline | 33.55 mmol, 9.5 g | BrCC1=C2N=C(C(=NC2=CC=C1)OC)OC | C11H11BrN2O2
reactant | isopropyl nitrate | 3.39 ml, 1 eq. | [N+](=O)(OC(C)C)[O-] | C3H7NO3
product | 5-Bromomethyl-7-nitro-2,3-dimethoxyquinoxaline | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
